US06992087B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(cis)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate and making non-critical variations provided the title compound as an oil: 1H NMR (CDCl3) δ 1.15, 1.29, 2.48, 2.70, 2.90, 2.90, 3.15, 3.23, 3.44, 3.85, 4.11, 4.55, 4.66, 5.32, 6.88, 7.02, 7.24.

reactant | 5-(2,4-dichlorophenyl)-N-[(cis)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C20H26Cl2N4O
reactant | benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OCC1=CC=CC=C1)CC | C29H34ClFN4O4
product | 5-(2-chloro-4-methoxyphenyl)-3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCCF)CC | C21H28ClFN4O2
